US09422271B2
Under H2, N,N-dimethyl-4-nitrobenzenesulfonamide (879 mg, 3.8 mmol, 1.0 equiv.) was catalytically hydrogenated in the presence of Pd/C (40 mg) in MeOH (25 mL). When no more H2 was consumed, the reaction mixture was filtered. The filtrate was concentrated and crystallized to afford compound 4-amino-N,N-dimethyl benzenesulfonamide (722 mg, 95%).

reactant | N,N-dimethyl-4-nitrobenzenesulfonamide | 3.8 mmol, 879 mg, 1.0 equiv. | CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C8H10N2O4S
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4-amino-N,N-dimethyl benzenesulfonamide | 722 mg, 95% | NC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H12N2O2S
